US04923857
To a solution of (2S,4S)-1-allyloxycarbonyl-4-(allyloxycarbonylamino)-2-t-butyldimethylsilyloxymethylpyrrolidine (0.97 g) in N,N-dimethylformamide (5.0 ml) was added sodium hydride (0.099 g) at 0° C. After stirring at ambient temperature for 1 hour, the mixture was cooled to 0° C. To the mixture was added methyl iodide (0.31 ml) and the resulting mixture was stirred for additional 4 hours at 0° C. The reaction mixture was diluted with water (50 ml) and ethyl acetate (50 ml). The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated to give (2S,4S)-1-allyloxycarbonyl-4-(N-allyloxycarbonyl-N-methylamino)-2-t-butyldimethylsilyloxymethylpyrrolidine (1.01 g). IR (Neat): 1700 cm-1

reactant | (2S,4S)-1-allyloxycarbonyl-4-(allyloxycarbonylamino)-2-t-butyldimethylsilyloxymethylpyrrolidine | 0.97 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)NC(=O)OCC=C)CO[Si](C)(C)C(C)(C)C | C19H34N2O5Si
reactant | sodium hydride | 0.099 g | [H-].[Na+]
reactant | methyl iodide | 0.31 ml | CI | CH3I
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-1-allyloxycarbonyl-4-(N-allyloxycarbonyl-N-methylamino)-2-t-butyldimethylsilyloxymethylpyrrolidine | 1.01 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)N(C)C(=O)OCC=C)CO[Si](C)(C)C(C)(C)C | C20H36N2O5Si
